US05994368
To a solution of 8-[3-[N-(4-amino-3-methylcinnamoylglycyl)-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylquinoline (200 mg) and triethylamine (35.9 mg) in dichloromethane was dropwise added methyl isocyanate (0.023 ml) at 0° C. under nitrogen atmosphere, and the mixture was stirred for 1 hour at the same temperature and for 2 hours at ambient temperature. Methyl isocyanate (0.03 ml) was further added thereto, and the mixture was stirred overnight at ambient temperature. The mixture was partitioned between dichloromethane and water, the organic layer was washed with water, saturated sodium bicarbonate solution and brine, dried and concentrated in vacuo. The residue was purified by preparative thin-layer chromatography (dichloromethane:methanol=15:1, V/V) to give 8-[2,6-dichloro-3-[N-methyl-N-[3-methyl-4-(N'-methylureido)cinnamoylglycyl]amino]benzyloxy]-2-methylquinoline (150 mg) as an amorphous powder.

reactant | 8-[3-[N-(4-amino-3-methylcinnamoylglycyl)-N-methylamino]-2,6-dichlorobenzyloxy]-2-methylquinoline | 200 mg | NC1=C(C=C(C=CC(=O)NCC(=O)N(C)C=2C(=C(COC=3C=CC=C4C=CC(=NC34)C)C(=CC2)Cl)Cl)C=C1)C | C30H28Cl2N4O3
reactant | triethylamine | 35.9 mg | C(C)N(CC)CC | C6H15N
reactant | methyl isocyanate | 0.023 ml | CN=C=O | C2H3NO
reactant | Methyl isocyanate | 0.03 ml | CN=C=O | C2H3NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 8-[2,6-dichloro-3-[N-methyl-N-[3-methyl-4-(N'-methylureido)cinnamoylglycyl]amino]benzyloxy]-2-methylquinoline | 150 mg | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C(CNC(C=CC1=CC(=C(C=C1)NC(=O)NC)C)=O)=O)C)Cl | C32H31Cl2N5O4
